US04012384
7-Amino-1,3,5-triazaadamantane (2)
7-Nitro-1,3,5-triazaadamantane (46.1 g., 0.25 mole), 175 ml. of 95% ethanol and 8.0 g. of 5% rhodium-charcoal catalyst were shaken with hydrogen in a Parr apparatus at 25° until hydrogen uptake ceased (13 hours). (The reaction bottle was refilled with hydrogen at intervals as required to keep the hydrogen pressure between 25-50 psi.) The reaction mixture was filtered with suction through Celite and the collected catalyst washed thoroughly with ethanol. The filtrate was concentrated to dryness under reduced pressure and the solid residue, after being ground to a powder, was pumped at 25° and 0.1 mm for 12 hours to remove traces of volatiles to yield 38.6 g. (99.5%) of high purity 2, m.p. 216°-219°. The product may be recrystallized from benzene (80% recovery) to yield long needles, m.p. 214°-217°; nmr (deuterium oxide): δ 4.70 (2, s, OH), 4.39, 3.97 (6, ABq, J = 12 Hz; 2,4,9 CH2), 3.17 (6, s, 6,8,10 CH2); TMS external standard.

reactant | 7-Nitro-1,3,5-triazaadamantane | 0.25 mole, 46.1 g | [N+](=O)([O-])C12CN3CN(CN(C1)C3)C2 | C7H12N4O2
reactant | hydrogen | [H][H] | H2
catalyst | rhodium charcoal | [Rh].C
solvent | ethanol | C(C)O | C2H6O
product | 7-Amino-1,3,5-triazaadamantane | NC12CN3CN(CN(C1)C3)C2 | C7H14N4
